US06599902B2
Synthesis of 5-(2,6-Dimethyl-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-[5-(2,6-Dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.26 mmol) was coupled with (S)-2-pyrrolidin-1-ylmethyl-pyrrolidine (50 mg, 1.2 eq.), HOBt (42 mg, 1.2 eq.), EDAC.HCl (60 mg, 1.2 eq.) and TEA (3 eq.) in acetonitrile: DMF (3:1) to give the titled compound.

reactant | 5-[5-(2,6-Dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.26 mmol, 120 mg | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C25H24N2O5S
reactant | (S)-2-pyrrolidin-1-ylmethyl-pyrrolidine | 50 mg, 1.2 eq. | N1(CCCC1)C[C@H]1NCCC1 | C9H18N2
reactant | HOBt | 42 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 60 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | acetonitrile DMF | C(C)#N.CN(C)C=O
product | 5-(2,6-Dimethyl-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1[C@@H](CCC1)CN1CCCC1)C | C34H40N4O4S
